US06680313B2
a) 2-Methanesulfonyloxyethyl disulfide
N,N-Diisopropylethylamine (4.35 ml) and 1.70 ml of methanesulfonyl chloride were added to a suspension of 1.22 ml of 2-hydroxyethyl disulfide in 30 ml of dichloromethane at −40° C. under an argon atmosphere. The mixture was stirred at that temperature for 30 min. The reaction solution was then diluted with dichloromethane, and the diluted solution was washed with an dilute aqueous hydrochloric acid solution, an aqueous sodium hydrogencarbonate solution, and water in that order, and was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure to prepare 3.08 g of 2-methanesulfonyloxyethyl disulfide.

reactant | N,N-Diisopropylethylamine | 4.35 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 1.70 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-hydroxyethyl disulfide | 1.22 ml | OCCSSCCO | C4H10O2S2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-Methanesulfonyloxyethyl disulfide | CS(=O)(=O)OCCSSCCOS(=O)(=O)C | C6H14O6S4
